US08735402B2
(c) 4-(5-Chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenol
A solution of 1.2 g of 5-chloro-2-(4-methoxy-3,5-dimethylphenyl)oxazolo[5,4-d]pyrimidine in 42 ml of dichloromethane was cooled to 0° C., and 10 ml of a 1 M solution of boron tribromide in dichloromethane were added over a period of 10 min. The mixture was stirred at 0° C. for 1 h, and a further 3 ml of a 1 M solution of boron tribromide in dichloromethane were then added. After another hour of stirring, 20 ml of saturated aqueous sodium bicarbonate solution were added slowly. The precipitate was filtered off and washed with water, which gave 1 g of the title compound.

reactant | 5-chloro-2-(4-methoxy-3,5-dimethylphenyl)oxazolo[5,4-d]pyrimidine | 1.2 g | ClC=1N=CC2=C(N1)OC(=N2)C2=CC(=C(C(=C2)C)OC)C | C14H12ClN3O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 42 ml | ClCCl | CH2Cl2
product | 4-(5-Chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenol | 1 g | ClC=1N=CC2=C(N1)OC(=N2)C2=CC(=C(C(=C2)C)O)C | C13H10ClN3O2
